US07351719B2
Z3b) 3-chloro-4-(2,2-diethoxy-ethoxy)-phenylamine
30 g (0.104 mol) of 2-chloro-1-(2,2-diethoxy-ethoxy)-4-nitrobenzene was added to a suspension of 1.50 g Pd/C (10%) in 500 mL EtOAc and the mixture was hydrogenated for 2 hours at 20 psi. The catalyst was filtered off and the filtrate evaporated down i. vac.

reactant | 2-chloro-1-(2,2-diethoxy-ethoxy)-4-nitrobenzene | 0.104 mol, 30 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])OCC(OCC)OCC | C12H16ClNO5
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 1.50 g | [Pd] | Pd
product | 3-chloro-4-(2,2-diethoxy-ethoxy)-phenylamine | ClC=1C=C(C=CC1OCC(OCC)OCC)N | C12H18ClNO3
